US04237136
A mixture of 8.8 g of 2-amino-4-phenylthiazole, 50 ml of absolute ethanol and 11.3 g of acetylene dicarboxylic acid di-n-butyl ester is heated to 50° to 60° C. for about 10 minutes. After standing for 2 days at room temperature the solution is evaporated to dryness. The residue is dissolved in ethyl acetate, filtered and the filtrate is mixed with an equal volume of ether. The precipitate is filtered off. 3-phenyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-butyl ester is thus obtained. Yield: 5 g=30.5% of the theoretical. Melting point 152°-154° C.

reactant | 2-amino-4-phenylthiazole | 8.8 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | acetylene dicarboxylic acid di-n-butyl ester | 11.3 g | C(CCC)OC(=O)C#CC(=O)OCCCC | C12H18O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-phenyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-butyl ester | C(CCC)OC(=O)C1=CC(N=C2N1C(=CS2)C2=CC=CC=C2)=O | C17H16N2O3S
